US07696231B2
c) Preparation of 3-(1,3-Benzodioxol-5-yl)-N-(4-{[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)propanamide
Following the general method as outlined in Example 1, into a suspension of 5-bromo-1H-indole-2,3dione in acetic acid was added 3-(1,3-benzodioxol-5-yl)-N-[4-(hydrazinocarbonyl)phenyl]propanamide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 151 mg of the title compound (89%) as a yellow solid in 98.2% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 5-bromo-1H-indole-2,3dione | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 3-(1,3-benzodioxol-5-yl)-N-[4-(hydrazinocarbonyl)phenyl]propanamide | O1COC2=C1C=CC(=C2)CCC(=O)NC2=CC=C(C=C2)C(=O)NN | C17H17N3O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1,3-Benzodioxol-5-yl)-N-(4-{[2-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)propanamide | 151 mg, 89% | O1COC2=C1C=CC(=C2)CCC(=O)NC2=CC=C(C=C2)C(=O)NN=C2C(NC1=CC=C(C=C21)Br)=O | C25H19BrN4O5
